US04673676
A solution of 4-methyl-7-nitroisoquinoline (400 mg), and 30% hydrogen peroxide (0.65 ml) in acetic acid (2 ml) was refluxed for 3.5 hours. After removal of the solvent, the residue in ether (50 ml) was stirred to give yellow powder. The powder was collected and washed with ether and dried to give 4-methyl-7-nitroisoquinoline N-oxide (360 mg).

reactant | 4-methyl-7-nitroisoquinoline | 400 mg | CC1=CN=CC2=CC(=CC=C12)[N+](=O)[O-] | C10H8N2O2
reactant | hydrogen peroxide | 0.65 ml | OO | H2O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 4-methyl-7-nitroisoquinoline N-oxide | 360 mg | CC1=C[N+](=CC2=CC(=CC=C12)[N+](=O)[O-])[O-] | C10H8N2O3
